* Z:\home\jazz\Projects\EMG-Controlled-Prosthetic\Simulation\DC_Bias_With_HPFilter_Test\DCBIAS_WithFilter_Test.asc
C1 VHP N002 220n
V1 N002 0 SINE(0 1 {x} 0 0 0) AC 1
R1 N001 VHP 53.5k
V2 N001 0 9
R2 VHP 0 11k
C2 0 VLP 1.5µ
R3 VLP VHP 91k
R4 0 VHP 1Gig
R5 0 VLP 1Gig
.tran 0 1.5 0 10m startup
.param x 60
* .ac dec 100 0.01 10000
.backanno
.end
